US05145865
(1) Methyl 4-[1-(4-hydroxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate
Methyl 4-[1-(4-benzyloxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate (2.00 g) is dissolved in a mixed solvent of chloroform (50 ml) and methanol (20 ml), and thereto is added 10% palladium-carbon (0.2 g). The mixture is stirred at room temperature at atmospheric pressure under hydrogen atmosphere for 22 hours. The catalyst is removed by filtration and the filtrate is concentrated under reduced pressure. The residue is crystallized from 50% aqueous methanol (about 20 ml) to give the desired product (1.50 g), m.p. 141°-144° C.

reactant | Methyl 4-[1-(4-benzyloxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate | 2.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C26H25NO5
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | Methyl 4-[1-(4-hydroxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate | 1.50 g | OC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C19H19NO5
